reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:6][H:18])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])[H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9],33.410803326571894
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:2][C:4]([H:12])([H:13])[H:14])([H:5])([H:6])[H:7].[C:3]([H:8])([H:9])([H:10])[H:11],92.7619736268433
[C:1]([O+:3]=[C-:2][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],46.962001534296604
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:6][H:18])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])[H:14],122.969385256852
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1=[N:4][C@:7]1(/[C:6](=[N:5]/[H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10],88.68939813512529
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3]([O:4][H:13])(=[C:5]=[C:6]([H:7])[H:14])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],36.208828624177094
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:7])[H:9].[C:4]([O:5][H:8])[N:6]([H:14])[H:15],76.59016914853942
[C:1]([C:2]1([O+:5]=[C-:6][O:7][H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],31.685814259616514
[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C@@:4]([C:6]([O:7][H:17])([H:15])[H:16])([H:13])[O:5]1>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],51.06674465456561
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]1([H:7])[C:2](=[O:6])[C@:3]1([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8],63.730729841868886
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O+:3]=[C:4]([N:5]([C-:6]([H:13])[H:15])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],81.77587272800602
[C:1]([C@@:2]([O:3][H:11])([C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],54.7061603034825
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C@:3]1([O:4][H:7])[C:5]#[C:6][H:10],57.0900962131235
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:7](=[C:6]=[C:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])[H:11])[H:15])([H:8])([H:9])[H:10],95.96226110237309
[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C-:3]=[O+:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],71.24987863014499
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C:2]([N:3]=[C:4]=[N:5][H:8])=[N:6][H:9])[H:7],77.6136980096243
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[C@:2]12([H:11])[C:3](=[O:4])[C:5]1=[C:6]2[C:7]([H:13])([H:14])[H:15],91.644919104469
[O:1]([C@:2]([C:3][O:4][H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],29.7292444704631
[C:1]([C@@:2]1([H:11])[C:3](=[C:5]=[C:6]([H:10])[H:12])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],63.03020209419668
[C:1](=[N:2][C@@:3]([N:4]([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],86.772792397266
[N:1]([C:2](=[C:5]=[N:6][C:3]([O:4][H:12])([H:10])[H:11])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],54.707691242393906
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([c:3]1[n:4]([H:11])[o:6][c:5]1[H:12])[H:10])([H:7])([H:8])[H:9],94.97438190366907
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])=[C:7]([H:13])[C:6]1=[O:5])([H:9])[H:10])[H:8],110.629797055912
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1=[C:6]([H:13])[C:5]([H:11])([H:12])[C:4]1=[O:7])([H:9])[H:10])[H:8],108.301248325928
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:4]([C:5]([H:13])([H:14])[H:15])[C:3]1([H:11])[H:12])([H:7])([H:8])[H:9].[O:6]([H:10])[H:16],79.0948384839153
